### PR TITLE
feat(Order/GaloisConnection): Galois insertion is order-reflecting

### PR DESCRIPTION
**Pull request by artie2000**
* Add lemmas stating that the injective side of a Galois (co)insertion is order-reflecting
* Add simp lemmas for the iff version (order-preserving + order-reflecting)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/GaloisConnection.lean [hunk 1]
```diff
@@ -470,6 +470,14 @@ theorem leftInverse_l_u [Preorder α] [PartialOrder β] (gi : GaloisInsertion l
     LeftInverse l u :=
   gi.l_u_eq
 
+theorem le_of_u_le_u [Preorder α] [PartialOrder β] (gi : GaloisInsertion l u)
+    {a b : β} (h : u a ≤ u b) : a ≤ b := by
+  rw [← gi.gc.le_iff_le, gi.l_u_eq] at h
+  exact h
+
+@[simp] theorem u_le_u_iff_le [Preorder α] [PartialOrder β] (gi : GaloisInsertion l u) {a b : β} :
+    u a ≤ u b ↔ a ≤ b := ⟨(gi.le_of_u_le_u ·), (gi.gc.monotone_u ·)⟩
```
Comment (YaelDillies) [inline Mathlib/Order/GaloisConnection.lean:479]: There is already `GaloisInsertion.u_le_u_iff` that covers both these lemmas

File: Mathlib/Order/GaloisConnection.lean [hunk 2]
```diff
@@ -690,6 +698,14 @@ theorem u_l_leftInverse [PartialOrder α] [Preorder β] (gi : GaloisCoinsertion
     LeftInverse u l :=
   gi.u_l_eq
 
+theorem le_of_l_le_l [PartialOrder α] [Preorder β] (gi : GaloisCoinsertion l u)
+    {a b : α} (h : l a ≤ l b) : a ≤ b := by
+  rw [gi.gc.le_iff_le, gi.u_l_eq] at h
+  exact h
+
+@[simp] theorem l_le_l_iff_le [PartialOrder α] [Preorder β] (gi : GaloisCoinsertion l u) {a b : α} :
+    l a ≤ l b ↔ a ≤ b := ⟨(gi.le_of_l_le_l ·), (gi.gc.monotone_l ·)⟩
```
Comment (YaelDillies) [inline Mathlib/Order/GaloisConnection.lean:707]: And here `GaloisInsertion.l_le_l_iff`

**Review by YaelDillies — COMMENTED** [review]
Sorry, these lemmas already exist. I also don't think they would be good simp lemmas since the head of the LHS is a free variable (`u` or `l`).

File: Mathlib/Order/GaloisConnection.lean (hunk 1 above)
Comment (artie2000) [reply Mathlib/Order/GaloisConnection.lean:479]: omg idk how I missed that! sorry
